*-- pdngen: spice deck generated for chip 'chiplet2' PDN
*-- die chiplet2:  W/H: 0.002/0.003


.subckt chiplet2
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
*-- p/g port #: 12/12
+nd_1_0_5000_4666

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_666 nd_1_0_3000_666 0.016324
rd_1_2_0_0_1 nd_1_0_3000_666 nd_1_0_5000_666 0.016324
rd_1_2_0_0_2 nd_1_0_5000_666 nd_1_0_7000_666 0.016324
rd_1_2_0_0_3 nd_1_0_7000_666 nd_1_0_9000_666 0.016324
rd_1_2_0_1_0 nd_1_0_1000_2000 nd_1_0_3000_2000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_2000 nd_1_0_5000_2000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_2000 nd_1_0_7000_2000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_2000 nd_1_0_9000_2000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_3333 nd_1_0_3000_3333 0.016324
rd_1_2_0_2_1 nd_1_0_3000_3333 nd_1_0_5000_3333 0.016324
rd_1_2_0_2_2 nd_1_0_5000_3333 nd_1_0_7000_3333 0.016324
rd_1_2_0_2_3 nd_1_0_7000_3333 nd_1_0_9000_3333 0.016324
rd_1_2_0_3_0 nd_1_0_1000_4666 nd_1_0_3000_4666 0.016324
rd_1_2_0_3_1 nd_1_0_3000_4666 nd_1_0_5000_4666 0.016324
rd_1_2_0_3_2 nd_1_0_5000_4666 nd_1_0_7000_4666 0.016324
rd_1_2_0_3_3 nd_1_0_7000_4666 nd_1_0_9000_4666 0.016324
rd_1_2_0_4_0 nd_1_0_1000_6000 nd_1_0_3000_6000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_6000 nd_1_0_5000_6000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_6000 nd_1_0_7000_6000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_6000 nd_1_0_9000_6000 0.016324
rd_1_2_0_5_0 nd_1_0_1000_7333 nd_1_0_3000_7333 0.016324
rd_1_2_0_5_1 nd_1_0_3000_7333 nd_1_0_5000_7333 0.016324
rd_1_2_0_5_2 nd_1_0_5000_7333 nd_1_0_7000_7333 0.016324
rd_1_2_0_5_3 nd_1_0_7000_7333 nd_1_0_9000_7333 0.016324
rd_1_2_0_6_0 nd_1_0_1000_8666 nd_1_0_3000_8666 0.016324
rd_1_2_0_6_1 nd_1_0_3000_8666 nd_1_0_5000_8666 0.016324
rd_1_2_0_6_2 nd_1_0_5000_8666 nd_1_0_7000_8666 0.016324
rd_1_2_0_6_3 nd_1_0_7000_8666 nd_1_0_9000_8666 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_666 nd_2_0_1000_2000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_2000 nd_2_0_1000_3333 0.016324
rd_2_1_0_0_2 nd_2_0_1000_3333 nd_2_0_1000_4666 0.016324
rd_2_1_0_0_3 nd_2_0_1000_4666 nd_2_0_1000_6000 0.016324
rd_2_1_0_0_4 nd_2_0_1000_6000 nd_2_0_1000_7333 0.016324
rd_2_1_0_0_5 nd_2_0_1000_7333 nd_2_0_1000_8666 0.016324
rd_2_1_0_1_0 nd_2_0_3000_666 nd_2_0_3000_2000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_2000 nd_2_0_3000_3333 0.016324
rd_2_1_0_1_2 nd_2_0_3000_3333 nd_2_0_3000_4666 0.016324
rd_2_1_0_1_3 nd_2_0_3000_4666 nd_2_0_3000_6000 0.016324
rd_2_1_0_1_4 nd_2_0_3000_6000 nd_2_0_3000_7333 0.016324
rd_2_1_0_1_5 nd_2_0_3000_7333 nd_2_0_3000_8666 0.016324
rd_2_1_0_2_0 nd_2_0_5000_666 nd_2_0_5000_2000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_2000 nd_2_0_5000_3333 0.016324
rd_2_1_0_2_2 nd_2_0_5000_3333 nd_2_0_5000_4666 0.016324
rd_2_1_0_2_3 nd_2_0_5000_4666 nd_2_0_5000_6000 0.016324
rd_2_1_0_2_4 nd_2_0_5000_6000 nd_2_0_5000_7333 0.016324
rd_2_1_0_2_5 nd_2_0_5000_7333 nd_2_0_5000_8666 0.016324
rd_2_1_0_3_0 nd_2_0_7000_666 nd_2_0_7000_2000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_2000 nd_2_0_7000_3333 0.016324
rd_2_1_0_3_2 nd_2_0_7000_3333 nd_2_0_7000_4666 0.016324
rd_2_1_0_3_3 nd_2_0_7000_4666 nd_2_0_7000_6000 0.016324
rd_2_1_0_3_4 nd_2_0_7000_6000 nd_2_0_7000_7333 0.016324
rd_2_1_0_3_5 nd_2_0_7000_7333 nd_2_0_7000_8666 0.016324
rd_2_1_0_4_0 nd_2_0_9000_666 nd_2_0_9000_2000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_2000 nd_2_0_9000_3333 0.016324
rd_2_1_0_4_2 nd_2_0_9000_3333 nd_2_0_9000_4666 0.016324
rd_2_1_0_4_3 nd_2_0_9000_4666 nd_2_0_9000_6000 0.016324
rd_2_1_0_4_4 nd_2_0_9000_6000 nd_2_0_9000_7333 0.016324
rd_2_1_0_4_5 nd_2_0_9000_7333 nd_2_0_9000_8666 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_666 nd_2_0_1000_666 0.005
rvd_1_0_0_1 nd_1_0_3000_666 nd_2_0_3000_666 0.005
rvd_1_0_0_2 nd_1_0_5000_666 nd_2_0_5000_666 0.005
rvd_1_0_0_3 nd_1_0_7000_666 nd_2_0_7000_666 0.005
rvd_1_0_0_4 nd_1_0_9000_666 nd_2_0_9000_666 0.005
rvd_1_0_1_0 nd_1_0_1000_2000 nd_2_0_1000_2000 0.005
rvd_1_0_1_1 nd_1_0_3000_2000 nd_2_0_3000_2000 0.005
rvd_1_0_1_2 nd_1_0_5000_2000 nd_2_0_5000_2000 0.005
rvd_1_0_1_3 nd_1_0_7000_2000 nd_2_0_7000_2000 0.005
rvd_1_0_1_4 nd_1_0_9000_2000 nd_2_0_9000_2000 0.005
rvd_1_0_2_0 nd_1_0_1000_3333 nd_2_0_1000_3333 0.005
rvd_1_0_2_1 nd_1_0_3000_3333 nd_2_0_3000_3333 0.005
rvd_1_0_2_2 nd_1_0_5000_3333 nd_2_0_5000_3333 0.005
rvd_1_0_2_3 nd_1_0_7000_3333 nd_2_0_7000_3333 0.005
rvd_1_0_2_4 nd_1_0_9000_3333 nd_2_0_9000_3333 0.005
rvd_1_0_3_0 nd_1_0_1000_4666 nd_2_0_1000_4666 0.005
rvd_1_0_3_1 nd_1_0_3000_4666 nd_2_0_3000_4666 0.005
rvd_1_0_3_2 nd_1_0_5000_4666 nd_2_0_5000_4666 0.005
rvd_1_0_3_3 nd_1_0_7000_4666 nd_2_0_7000_4666 0.005
rvd_1_0_3_4 nd_1_0_9000_4666 nd_2_0_9000_4666 0.005
rvd_1_0_4_0 nd_1_0_1000_6000 nd_2_0_1000_6000 0.005
rvd_1_0_4_1 nd_1_0_3000_6000 nd_2_0_3000_6000 0.005
rvd_1_0_4_2 nd_1_0_5000_6000 nd_2_0_5000_6000 0.005
rvd_1_0_4_3 nd_1_0_7000_6000 nd_2_0_7000_6000 0.005
rvd_1_0_4_4 nd_1_0_9000_6000 nd_2_0_9000_6000 0.005
rvd_1_0_5_0 nd_1_0_1000_7333 nd_2_0_1000_7333 0.005
rvd_1_0_5_1 nd_1_0_3000_7333 nd_2_0_3000_7333 0.005
rvd_1_0_5_2 nd_1_0_5000_7333 nd_2_0_5000_7333 0.005
rvd_1_0_5_3 nd_1_0_7000_7333 nd_2_0_7000_7333 0.005
rvd_1_0_5_4 nd_1_0_9000_7333 nd_2_0_9000_7333 0.005
rvd_1_0_6_0 nd_1_0_1000_8666 nd_2_0_1000_8666 0.005
rvd_1_0_6_1 nd_1_0_3000_8666 nd_2_0_3000_8666 0.005
rvd_1_0_6_2 nd_1_0_5000_8666 nd_2_0_5000_8666 0.005
rvd_1_0_6_3 nd_1_0_7000_8666 nd_2_0_7000_8666 0.005
rvd_1_0_6_4 nd_1_0_9000_8666 nd_2_0_9000_8666 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_1000_666 0 37.3096
rdesr_0_0_0_0 nd_1_0_1000_666 nd_1_0_1000_666_ci 37.3096
cd_0_0_0_0 nd_1_0_1000_666_ci 0 5.36055e-11
rdload_0_0_0_1 nd_1_0_3000_666 0 58.5474
rdesr_0_0_0_1 nd_1_0_3000_666 nd_1_0_3000_666_ci 58.5474
cd_0_0_0_1 nd_1_0_3000_666_ci 0 3.41603e-11
rdload_0_0_0_2 nd_1_0_5000_666 0 40.1949
rdesr_0_0_0_2 nd_1_0_5000_666 nd_1_0_5000_666_ci 40.1949
cd_0_0_0_2 nd_1_0_5000_666_ci 0 4.97576e-11
rdload_0_0_0_3 nd_1_0_7000_666 0 102.661
rdesr_0_0_0_3 nd_1_0_7000_666 nd_1_0_7000_666_ci 102.661
cd_0_0_0_3 nd_1_0_7000_666_ci 0 1.94817e-11
rdload_0_0_0_4 nd_1_0_9000_666 0 57.8069
rdesr_0_0_0_4 nd_1_0_9000_666 nd_1_0_9000_666_ci 57.8069
cd_0_0_0_4 nd_1_0_9000_666_ci 0 3.45979e-11
rdload_0_0_0_5 nd_1_0_1000_2000 0 39.7244
rdesr_0_0_0_5 nd_1_0_1000_2000 nd_1_0_1000_2000_ci 39.7244
cd_0_0_0_5 nd_1_0_1000_2000_ci 0 5.03469e-11
rdload_0_0_0_6 nd_1_0_3000_2000 0 66.2788
rdesr_0_0_0_6 nd_1_0_3000_2000 nd_1_0_3000_2000_ci 66.2788
cd_0_0_0_6 nd_1_0_3000_2000_ci 0 3.01756e-11
rdload_0_0_0_7 nd_1_0_5000_2000 0 56.7887
rdesr_0_0_0_7 nd_1_0_5000_2000 nd_1_0_5000_2000_ci 56.7887
cd_0_0_0_7 nd_1_0_5000_2000_ci 0 3.52183e-11
rdload_0_0_0_8 nd_1_0_7000_2000 0 39.1607
rdesr_0_0_0_8 nd_1_0_7000_2000 nd_1_0_7000_2000_ci 39.1607
cd_0_0_0_8 nd_1_0_7000_2000_ci 0 5.10716e-11
rdload_0_0_0_9 nd_1_0_9000_2000 0 65.3905
rdesr_0_0_0_9 nd_1_0_9000_2000 nd_1_0_9000_2000_ci 65.3905
cd_0_0_0_9 nd_1_0_9000_2000_ci 0 3.05855e-11
rdload_0_0_0_10 nd_1_0_1000_3333 0 192.557
rdesr_0_0_0_10 nd_1_0_1000_3333 nd_1_0_1000_3333_ci 192.557
cd_0_0_0_10 nd_1_0_1000_3333_ci 0 1.03865e-11
rdload_0_0_0_11 nd_1_0_3000_3333 0 38.9918
rdesr_0_0_0_11 nd_1_0_3000_3333 nd_1_0_3000_3333_ci 38.9918
cd_0_0_0_11 nd_1_0_3000_3333_ci 0 5.12928e-11
rdload_0_0_0_12 nd_1_0_5000_3333 0 63.9378
rdesr_0_0_0_12 nd_1_0_5000_3333 nd_1_0_5000_3333_ci 63.9378
cd_0_0_0_12 nd_1_0_5000_3333_ci 0 3.12804e-11
rdload_0_0_0_13 nd_1_0_7000_3333 0 185.661
rdesr_0_0_0_13 nd_1_0_7000_3333 nd_1_0_7000_3333_ci 185.661
cd_0_0_0_13 nd_1_0_7000_3333_ci 0 1.07723e-11
rdload_0_0_0_14 nd_1_0_9000_3333 0 74.9598
rdesr_0_0_0_14 nd_1_0_9000_3333 nd_1_0_9000_3333_ci 74.9598
cd_0_0_0_14 nd_1_0_9000_3333_ci 0 2.6681e-11
rdload_0_0_0_15 nd_1_0_1000_4666 0 62.5661
rdesr_0_0_0_15 nd_1_0_1000_4666 nd_1_0_1000_4666_ci 62.5661
cd_0_0_0_15 nd_1_0_1000_4666_ci 0 3.19662e-11
rdload_0_0_0_16 nd_1_0_3000_4666 0 41.9098
rdesr_0_0_0_16 nd_1_0_3000_4666 nd_1_0_3000_4666_ci 41.9098
cd_0_0_0_16 nd_1_0_3000_4666_ci 0 4.77215e-11
rdload_0_0_0_17 nd_1_0_5000_4666 0 73.3694
rdesr_0_0_0_17 nd_1_0_5000_4666 nd_1_0_5000_4666_ci 73.3694
cd_0_0_0_17 nd_1_0_5000_4666_ci 0 2.72593e-11
rdload_0_0_0_18 nd_1_0_7000_4666 0 288.84
rdesr_0_0_0_18 nd_1_0_7000_4666 nd_1_0_7000_4666_ci 288.84
cd_0_0_0_18 nd_1_0_7000_4666_ci 0 6.92425e-12
rdload_0_0_0_19 nd_1_0_9000_4666 0 89.1843
rdesr_0_0_0_19 nd_1_0_9000_4666 nd_1_0_9000_4666_ci 89.1843
cd_0_0_0_19 nd_1_0_9000_4666_ci 0 2.24255e-11
rdload_0_0_0_20 nd_1_0_1000_6000 0 31.6956
rdesr_0_0_0_20 nd_1_0_1000_6000 nd_1_0_1000_6000_ci 31.6956
cd_0_0_0_20 nd_1_0_1000_6000_ci 0 6.31002e-11
rdload_0_0_0_21 nd_1_0_3000_6000 0 46.4006
rdesr_0_0_0_21 nd_1_0_3000_6000 nd_1_0_3000_6000_ci 46.4006
cd_0_0_0_21 nd_1_0_3000_6000_ci 0 4.31029e-11
rdload_0_0_0_22 nd_1_0_5000_6000 0 34.0672
rdesr_0_0_0_22 nd_1_0_5000_6000 nd_1_0_5000_6000_ci 34.0672
cd_0_0_0_22 nd_1_0_5000_6000_ci 0 5.87075e-11
rdload_0_0_0_23 nd_1_0_7000_6000 0 679.26
rdesr_0_0_0_23 nd_1_0_7000_6000 nd_1_0_7000_6000_ci 679.26
cd_0_0_0_23 nd_1_0_7000_6000_ci 0 2.94438e-12
rdload_0_0_0_24 nd_1_0_9000_6000 0 45.5653
rdesr_0_0_0_24 nd_1_0_9000_6000 nd_1_0_9000_6000_ci 45.5653
cd_0_0_0_24 nd_1_0_9000_6000_ci 0 4.38931e-11
rdload_0_0_0_25 nd_1_0_1000_7333 0 84.74
rdesr_0_0_0_25 nd_1_0_1000_7333 nd_1_0_1000_7333_ci 84.74
cd_0_0_0_25 nd_1_0_1000_7333_ci 0 2.36016e-11
rdload_0_0_0_26 nd_1_0_3000_7333 0 51.3629
rdesr_0_0_0_26 nd_1_0_3000_7333 nd_1_0_3000_7333_ci 51.3629
cd_0_0_0_26 nd_1_0_3000_7333_ci 0 3.89386e-11
rdload_0_0_0_27 nd_1_0_5000_7333 0 106.907
rdesr_0_0_0_27 nd_1_0_5000_7333 nd_1_0_5000_7333_ci 106.907
cd_0_0_0_27 nd_1_0_5000_7333_ci 0 1.87078e-11
rdload_0_0_0_28 nd_1_0_7000_7333 0 82.4981
rdesr_0_0_0_28 nd_1_0_7000_7333 nd_1_0_7000_7333_ci 82.4981
cd_0_0_0_28 nd_1_0_7000_7333_ci 0 2.4243e-11
rdload_0_0_0_29 nd_1_0_9000_7333 0 50.3509
rdesr_0_0_0_29 nd_1_0_9000_7333 nd_1_0_9000_7333_ci 50.3509
cd_0_0_0_29 nd_1_0_9000_7333_ci 0 3.97212e-11
rdload_0_0_0_30 nd_1_0_1000_8666 0 103.687
rdesr_0_0_0_30 nd_1_0_1000_8666 nd_1_0_1000_8666_ci 103.687
cd_0_0_0_30 nd_1_0_1000_8666_ci 0 1.92889e-11
rdload_0_0_0_31 nd_1_0_3000_8666 0 28.4003
rdesr_0_0_0_31 nd_1_0_3000_8666 nd_1_0_3000_8666_ci 28.4003
cd_0_0_0_31 nd_1_0_3000_8666_ci 0 7.04219e-11
rdload_0_0_0_32 nd_1_0_5000_8666 0 49.127
rdesr_0_0_0_32 nd_1_0_5000_8666 nd_1_0_5000_8666_ci 49.127
cd_0_0_0_32 nd_1_0_5000_8666_ci 0 4.07108e-11
rdload_0_0_0_33 nd_1_0_7000_8666 0 99.2474
rdesr_0_0_0_33 nd_1_0_7000_8666 nd_1_0_7000_8666_ci 99.2474
cd_0_0_0_33 nd_1_0_7000_8666_ci 0 2.01517e-11
rdload_0_0_0_34 nd_1_0_9000_8666 0 28.0411
rdesr_0_0_0_34 nd_1_0_9000_8666 nd_1_0_9000_8666_ci 28.0411
cd_0_0_0_34 nd_1_0_9000_8666_ci 0 7.13238e-11

*-- intentional decap
cd_add_cap0 nd_1_0_3000_2000 nd0 'dcap_int_val126'
cd_add_cap1 nd_1_0_7000_2000 nd1 'dcap_int_val127'
cd_add_cap2 nd_1_0_3000_4666 nd2 'dcap_int_val128'
cd_add_cap3 nd_1_0_7000_4666 nd3 'dcap_int_val129'
cd_add_cap4 nd_1_0_3000_7333 nd4 'dcap_int_val130'
cd_add_cap5 nd_1_0_7000_7333 nd5 'dcap_int_val131'
rd_add0 nd0 0 'esr7'
rd_add1 nd1 0 'esr8'
rd_add2 nd2 0 'esr9'
rd_add3 nd3 0 'esr10'
rd_add4 nd4 0 'esr11'
rd_add5 nd5 0 'esr12'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_3333  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_6000  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_1000_8666  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_2000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_4666  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_3000_7333  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_3333  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_6000  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_5000_8666  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_2000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_4666  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_7000_7333  0.001

.ends chiplet2
